* extracted by klt extract --deck sky130

* cell ro_stage
* pin a
* pin mnt_g,vddr
* pin mph_g,vss
* pin ny
* pin py
* pin y
.SUBCKT ro_stage a mnt_g|vddr mph_g|vss ny py y
* device instance $1 r0 *1 1.42,0.21 nfet
M$1 ny mnt_g|vddr mph_g|vss mph_g|vss nfet L=2U W=0.42U AS=0.1764P AD=0.1764P
+ PS=1.68U PD=1.68U
* device instance $2 r0 *1 3.785,0.21 nfet
M$2 y a ny mph_g|vss nfet L=0.15U W=0.42U AS=0.1974P AD=0.1974P PS=1.78U
+ PD=1.78U
* device instance $3 r0 *1 1.42,3.74 pfet
M$3 py mph_g|vss mnt_g|vddr mnt_g|vddr pfet L=2U W=0.42U AS=0.1764P AD=0.1764P
+ PS=1.68U PD=1.68U
* device instance $4 r0 *1 3.585,3.74 pfet
M$4 y a py mnt_g|vddr pfet L=0.15U W=0.84U AS=0.3948P AD=0.3948P PS=2.62U
+ PD=2.62U
.ENDS ro_stage
